US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid pyridin-2-ylamide
This compound was prepared according to the method of Example 15, using 49 mg (0.177 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride and 18 mg (0.195 mmol, 1.1 equiv) 2-aminopyridine as starting materials, to give 17 mg (34%) of yellow amorphous foam: HRMS calcd for C20H22N4O+H: 335:1872. Found: 335.1874.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride | 0.177 mmol, 49 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)Cl)CC | C15H17ClN2O
reactant | 2-aminopyridine | 0.195 mmol, 18 mg, 1.1 equiv | NC1=NC=CC=C1 | C5H6N2
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid pyridin-2-ylamide | 17 mg, 34% | N1=C(C=CC=C1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C20H22N4O
